US05593993
1-[(2-(2-pyridyl)ethyl)thiocarbamoyl]imidazole
A solution of 1,1'-thiocarbonyldiimidazole (9.9 g, 50 mmol) and 2-(2-pyridyl)ethylamine (6.43 g, 50 mmol) in acetonitrile (120 mL) was stirred at room temperature for 24 h. The solution was concentrated under reduced pressure and the resulting brown oil was triturated with ethyl ether. The remaining oil was placed under vacuum to provide 10.7 g of crude titled product as a black solid:

reactant | 1,1'-thiocarbonyldiimidazole | 50 mmol, 9.9 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | 2-(2-pyridyl)ethylamine | 50 mmol, 6.43 g | N1=C(C=CC=C1)CCN | C7H10N2
solvent | acetonitrile | 120 mL | C(C)#N | C2H3N
product | 1-[(2-(2-pyridyl)ethyl)thiocarbamoyl]imidazole | 10.7 g | N1=C(C=CC=C1)CCNC(=S)N1C=NC=C1 | C11H12N4S
